US04870082
Preparation of ethyl (2-quinolinylmethylene)carbazate, Compound 21
A mixture of 3.93 gm (0.025 mole) of 2-quinolinecarboxaldehyde, 2.60 gm (0.025 mole) of ethylcarbazate and 100 ml of methanol is refluxed for 8 hrs. The hot solvent is evaporated in vacuo to give a solid. The crude product is crystallized from ethyl acetate/Skellysolve B to yield 1.19 gm (20%) of the title compound, having a melting point of 163°-165° C.

reactant | 2-quinolinecarboxaldehyde | 0.025 mole, 3.93 gm | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | ethylcarbazate | 0.025 mole, 2.60 gm | C(C)OC(NN)=O | C3H8N2O2
solvent | methanol | 100 ml | CO | CH4O
product | ethyl (2-quinolinylmethylene)carbazate | 1.19 gm, 20% | N1=C(C=CC2=CC=CC=C12)C=NNC(=O)OCC | C13H13N3O2
